US07674789B2
3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-5-fluoro-N-(4-fluorophenyl)-4-methylbenzamide
To the solution of 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]-amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-5-fluoro-4-methylbenzoic acid (25 mg, 0.05 mmol) in CH2Cl2 (2 mL) were added 4-flouroaniline (0.025 mL, 0.25 mmol), triethylamine (0.05 mL, 0.36 mmol) and HBTU (20 mg, 0.053 mmol). The reaction mixture was stirred over night. The reaction mixture was concentrated. Separation via a HPLC with TFA followed by treatment with t-amino SPE cartridge then provided the title compound as a white solid (26 mg, 88%). LC-MS m/z 594 (M+H)+; 1H-NMR (MeOD) δ 2.27 (s, 3H), 2.79 (s, 6H), 3.16 (m, 2H), 3.55 (m, 2H), 4.21 (s, 2H), 7.15 (m, 4H), 7.54 (m, 1H), 7.71 (m, 3H), 7.85 (m, 1H).

reactant | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]-amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-5-fluoro-4-methylbenzoic acid | 0.05 mmol, 25 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)O)C=C(C2C)F)NCCN(C)C)=O | C24H23F3N6O3
reactant | 4-flouroaniline | 0.25 mmol, 0.025 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 0.36 mmol, 0.05 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.053 mmol, 20 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-(8-(2,6-difluorophenyl)-2-{[2-(dimethylamino)ethyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-5-fluoro-N-(4-fluorophenyl)-4-methylbenzamide | 26 mg, 88% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=C(C2C)F)NCCN(C)C)=O | C30H27F4N7O2
